US06818644B1
b. [sic] 1-(6-phenyl-pyridin-2-yl)-piperazine
A solution of 0.7 g (2.06 mmol) of tert.butyl 4-(6-phenyl-pyridin-2-yl)-piperazine-1-carboxylate and 3 ml of trifluoroacetic acid in 30 ml of dichloromethane is stirred for three hours at ambient temperature. The solvent is then distilled off, the residue is combined with water and made basic with sodium hydroxide solution. It is then extracted with dichloromethane and the organic phase is separated off and dried over sodium sulphate.

reactant | tert.butyl 4-(6-phenyl-pyridin-2-yl)-piperazine-1-carboxylate | 2.06 mmol, 0.7 g | C1(=CC=CC=C1)C1=CC=CC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H25N3O2
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(6-phenyl-pyridin-2-yl)-piperazine | C1(=CC=CC=C1)C1=CC=CC(=N1)N1CCNCC1 | C15H17N3
